US05733935
0.6 g of N-methoxybenzamide was dissolved in 10 ml of acetonitrile, and 0.55 g of potassium carbonate and 0.42 g of chloromethylpropargyl ether were added thereto in this order. The mixture was stirred at room temperature for 3 hours. After completion of the reaction, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried, concentrated and purified by silica gel column chromatography to obtain 0.8 g of N-methoxy-N-propargyloxymethylbenzamide.

reactant | N-methoxybenzamide | 0.6 g | CONC(C1=CC=CC=C1)=O | C8H9NO2
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethylpropargyl ether | 0.42 g | ClCOCC#C | C4H5ClO
reactant | water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-methoxy-N-propargyloxymethylbenzamide | 0.8 g | CON(C(C1=CC=CC=C1)=O)COCC#C | C12H13NO3
